US06239142B1
N-(4-Chlorobenzyl)-4-hydroxy-2-(3-hydroxy-1-propynyl)thieno[2,3-b]pyridine-5-carboxamide
To a suspension of N-(4-chlorobenzyl)-4-hydroxy-2-iodothieno[2,3-b]pyridine-5-carboxamide (Example No. 2) (1.00 g) in diethylamine (28 mL) is added copper iodide (0.128 g) and Pd(PPh3)2Cl2 (0.032 g) followed by addition of propargyl alcohol (0.16 mL). The reaction is stirred at rt for 3 d. The reaction mixture is partitioned between H2O (100 mL) and ethyl acetate (100 mL). The organic layer is removed, and the aqueous layer is extracted with ethyl acetate (2×100 mL). Combined organic layers are washed with a saturated aqueous NH4Cl solution, dried with MgSO4, filtered, and concentrated in vacuo. The resulting orange solid is purified via column chromatography (CH2Cl2:CH3OH; 98:2, 95:5). Fractions homogeneous by TLC are combined and concentrated in vacuo to yield a pale orange solid which is recrystallized from CH2Cl2/CH3OH to yield 0.165 g (20%) of the title compound as an off-white solid.

reactant | N-(4-chlorobenzyl)-4-hydroxy-2-iodothieno[2,3-b]pyridine-5-carboxamide | 1.00 g | ClC1=CC=C(CNC(=O)C=2C(=C3C(=NC2)SC(=C3)I)O)C=C1 | C15H10ClIN2O2S
reactant | propargyl alcohol | 0.16 mL | C(C#C)O | C3H4O
solvent | diethylamine | 28 mL | C(C)NCC | C4H11N
catalyst | copper iodide | 0.128 g | [Cu](I)I
catalyst | Pd(PPh3)2Cl2 | 0.032 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-(4-Chlorobenzyl)-4-hydroxy-2-(3-hydroxy-1-propynyl)thieno[2,3-b]pyridine-5-carboxamide | 0.165 g, 20% | ClC1=CC=C(CNC(=O)C=2C(=C3C(=NC2)SC(=C3)C#CCO)O)C=C1 | C18H13ClN2O3S
